US07282588B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[3-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described for Intermediate 101 using 3-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde and pyrolidine provided the title compound. ESMS [M+H]+: 633.0.

reactant | 3-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]benzaldehyde | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=O)C=CC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C31H23N5O5S
reactant | pyrolidine | N1CCCC1 | C4H9N
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[3-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)CN2CCCC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C35H32N6O4S
